US09260427B2
To a stirring solution of tert-butyl 4-(4-(heptyloxy)phenyl)-4-hydroxypiperidine-1-carboxylate (388 mg, 0.99 mmol) and triethylsilane (791 μl, 4.95 mmol) in DCM (2 mL) cooled to −30° C. was slowly added 2,2,2-trifluoroacetic acid (379 μl, 4.95 mmol) in a drop-wise fashion. The reaction mixture was allowed to warm slowly and stirring continued for 16 h. The reaction mixture was poured onto ice-water/NaOH (50 mL/5 mL, 2 M) and extracted with DCM (3×20 mL). The combined organic extracts were washed successively with water (50 mL) and NaHCO3 (20 mL), dried over MgSO4 and evaporated to afford 166 mg (58%) of 4-(4-(heptyloxy)phenyl)piperidine INT-19 as a white, waxy solid. LCMS-ESI (m/z) calculated for C18H29NO: 275.4. found 276.0 [M+H]+, tR=2.88 min. (Method 11).

reactant | tert-butyl 4-(4-(heptyloxy)phenyl)-4-hydroxypiperidine-1-carboxylate | 0.99 mmol, 388 mg | C(CCCCCC)OC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C23H37NO4
reactant | triethylsilane | 4.95 mmol, 791 μl | C(C)[SiH](CC)CC | C6H16Si
reactant | 2,2,2-trifluoroacetic acid | 4.95 mmol, 379 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-(heptyloxy)phenyl)piperidine | 166 mg, 58% | C(CCCCCC)OC1=CC=C(C=C1)C1CCNCC1 | C18H29NO
